US07713994B2
(4Z)-4-({[4-(4-Methylpiperazin-1-yl)phenyl]amino}methylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione
A mixture of 4-methoxymethylene-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione, (100 mg, 0.3727 mmol), 4-(4-methyl-piperazin-1-yl)-phenylamine (71.3 mg, 0.3727 mmol) in 1 mL of N,N-dimethylformamide is heated at 100° C. for 0.5 h. After the solvent is evaporated, ether is added to the residue. The precipitate is collected, and washed with ether to give 122 mg (77%) of light brown solid mp 239-240° C.; HRMS (ESI) m/z calcd for C25H25N5O2 428.20811. found 428.20865 (M+H)+1, Analysis for C25H25N5O2 (0.6H2O), Calcd: C, 68.51; H, 6.02; N, 15.98. Found: C, 68.67; H, 5.85; N, 15.62.

reactant | 4-methoxymethylene-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione | 0.3727 mmol, 100 mg | COC=C1C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O | C15H12N2O3
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.3727 mmol, 71.3 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-({[4-(4-Methylpiperazin-1-yl)phenyl]amino}methylene)-6-(1H-pyrrol-1-yl)isoquinoline-1,3(2H,4H)-dione | CN1CCN(CC1)C1=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O | C25H25N5O2
